US08895547B2
N-(2,4-Dimethoxybenzyl)-C-(4-morpholin-4-ylphenyl)methanesulfonamide
A mixture of C-(4-bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide (1 g), morpholine (0.3 ml), Pd2(dba)3 (51 mg) and cesium carbonate (1.3 g) in dioxane was stirred at 80° C. for 16 h. The mixture was diluted with ethyl acetate, washed with water, dried over magnesium sulfate and concentrated. This was followed by purification by column chromatography (ethyl acetate/heptane). This gave the product (267 mg) with a molecular weight of 406.5 g/mol (C20H26N2O5S).

reactant | C-(4-bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | 1 g | BrC1=CC=C(C=C1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C16H18BrNO4S
reactant | morpholine | 0.3 ml | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 51 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2,4-Dimethoxybenzyl)-C-(4-morpholin-4-ylphenyl)methanesulfonamide | 267 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)N2CCOCC2)C=CC(=C1)OC | C20H26N2O5S
